US04663457
2-[4-(Ethoxycarbonyl)-1-piperazinyl]-6-(acetylcyclopropylamino)-3-pyridinediazonium tetrafluoroborate
A solution of 20.8 g (60 mmole) of 4-[6-(acetylcyclopropylamino)-3-amino-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester, 44 ml of ethanol and 27 ml of 48% tetrafluoroboric acid was cooled to 0° C. and treated dropwise with a solution of 4.56 g (66 mmol) of sodium nitrite in 8 ml of water under a nitrogen atmosphere keeping the temperature 0°-5° C. After the addition was complete, the reaction was stirred at 0°-5° C. for one hour and treated with 150 ml of anhydrous ether keeping the temperature below 10° C. The solid was removed by filtration, the precipitate was washed with ethanol/ether (1:1), ether and dried in vacuo to give 24.5 g of the title compound, mp 100°-105° C. (dec.).

reactant | 4-[6-(acetylcyclopropylamino)-3-amino-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester | 60 mmole, 20.8 g | C(C)(=O)N(C1=CC=C(C(=N1)N1CCN(CC1)C(=O)OCC)N)C1CC1 | C17H25N5O3
reactant | ethanol | 44 ml | C(C)O | C2H6O
reactant | tetrafluoroboric acid | 27 ml | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 66 mmol, 4.56 g | N(=O)[O-].[Na+]
solvent | water | 8 ml | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-[4-(Ethoxycarbonyl)-1-piperazinyl]-6-(acetylcyclopropylamino)-3-pyridinediazonium tetrafluoroborate | 24.5 g | F[B-](F)(F)F.C(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1[N+]#N)N(C1CC1)C(C)=O | InChI=1S/C17H23N6O3.BF4/c1-3-26-17(25)22-10-8-21(9-11-22)16-14(20-18)6-7-15(19-16)23(12(2)24)13-4-5-13;2-1(3,4)5/h6-7,13H,3-5,8-11H2,1-2H3;/q+1;-1
